data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,3962,"CC(C)[CH:1](C)[Cl+:2][Al-]([Cl])([Cl])[Cl]|((1, 2), 2)"
train,pmechdb_split_0,0,793,"C1CCOC1.CCCCCCCCC=CCCCCCCCC(=O)OCC(O)C[O:1]C(C)(C)O.O.O=C(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4774,"CC(=O)[O-:1].CC1=C[CH:2]([H:3])[C:4](C)=[N+:5]1C1=NNC=C1.O|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1825,"C1=CC=C(CC=[N+]2CCCCC2)C=C1.CC(=O)[O-:1].COC(=O)[CH:2](C(=O)O)[H:3].O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7669,"N#CC1=CC=C([CH2:1][Br:2])C=C1.OCC[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6575,"C1C[CH:1]=[C:2]([O-:3])C1.C[C:4]([C:5]1([H:6])CCCC1=O)=[O:7]|(3, 2);((2, 1), 6);((6, 5), 4);((4, 7), 7)"
train,pmechdb_split_0,0,6738,"CC(=O)C[C:1](OC1(C#CC2=CC=CC=C2)C=CC(=O)C=C1)([N+:2]1=CC=C(N(C)C)C=C1)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,935,"CC1=CC=C[C:1]([H:2])=[C:3]1[Br:4].[NH2-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1092,"CC(=O)CC[CH:1]=[O+:2]CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1209,"CCO[C:1]([CH2:2][H:3])=[O:4].CC[O-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,871,"CC(=O)O.CC(=O)OI1OC(=O)C2=C1C=CC=C2.CC(=O)O[I+:1]1(OC(C)=O)OC(=O)C2=C1C=CC=C2.CC(=O)[O-].C[Si](C)(C)CCSC(C=O)=CC=C(C[OH:2])SCC[Si](C)(C)C|(2, 1)"
train,pmechdb_split_0,0,5329,"N#[N+:1][CH2:2][C:3]1([O-:4])CC2C=CC(C2)[CH2:5]1|(4, 3);((3, 5), 2);((2, 1), 1)"
train,pmechdb_split_0,0,10206,"CO[PH+:1](Cl)Cl.C[OH:2]|(2, 1)"
train,pmechdb_split_0,0,7285,"C[N+:1](C)=[S:2](C)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8472,"O[P+:1](O)(O)Cl.[OH-:2]|(2, 1)"
train,pmechdb_split_0,0,4593,"CC(CO[Si](C)(C)C(C)(C)C)C1O[Si](C(C)C)(C(C)C)OC(C(C)C(O[Si](C)(C)C(C)(C)C)C(C)C(=O)C(C)C(C(C)CC=CI)[OH+:1][B-:2](F)(F)F)C1C.CC[O+](CC)[Si](C)(C)C(C)(C)C.[OH-]|((2, 1), 1)"
train,pmechdb_split_0,0,5688,"CC[OH+:1][C:2](O)(CCC#N)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8733,"CC[Si-:1](CC)(CC)(OC(=O)C(F)(F)F)[H:2].C[C+:3](C)C.O=C(O)NC(CC1=CNC2=C1C=CC=C2)C(=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,387,"C[CH:1]=[O+:2][Zn-]([Cl])[Cl]|((1, 2), 2)"
train,pmechdb_split_0,0,8678,"C[CH:1]=[C:2](N)[OH:3].[H:4][OH2+:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7766,"CC(=O)O[C:1](C)=[O:2].CC[NH:3]CC|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10075,"C[C:1]1=[CH:2]CC([C+:3](C)C)CC1.O=P1([O-])[O][Mg][O]P(=O)([O-])O1|((1, 2), 3)"
train,pmechdb_split_0,0,3192,"CC(C)[C:1]1([H:2])C=C[C+:3](C(C)(C)C)[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 2);((2, 1), 5);((5, 4), 3)"
train,pmechdb_split_0,0,9226,"CCCC(CCO)C1CCCCC1.CC[OH+:1][C:2]1([OH:3])CC2CCCCC2CO1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4131,"CC(CC=CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)[O:1][CH2:2][O+:3]1CC[O+](C)[Ti-2]1([Cl])([Cl])([Cl])[Cl]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5772,"COC1=C(OC)C=C(CC[N+]2([C:1]3([Br:2])CCC[C:3]([O-:4])=[CH:5]3)CC2)C=C1|(4, 3);((3, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7449,"CCOC(=O)C1CCC[C:1]1([O-:2])[O:3]CC|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,160,"CCO.CCOC(=O)C1=C(C)[NH+:1]=[C:2](C)[C:3](C(=O)OCC)([H:4])C1C1=C(CCC2=CC(Br)=CC=C2)ON=C1C.O.[NH3:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5612,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1=CC=CC=C1.CCOC(=O)[C:1]1=[C:2]2C(=O)CC(C)(C)C[C:3]2=[O+:4][CH:5]1[H:6].[OH2:7]|(7, 6);((6, 5), 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7995,"CO.OC(CC1=CC=CC(Br)=C1)=[O:1].[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2514,"CC(C)(C)O.CC1=CC=C(S(=O)(=O)[O:1][C:2]23CCC(C)(CC2)[CH:3]([O-:4])[CH2:5]3)C=C1.[K+]|(4, 3);((3, 5), 2);((2, 1), 1)"
train,pmechdb_split_0,0,7387,"CC(O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1.CCOC(=O)N([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[N-:1]C(=O)OCC.O=C(COC1=CC=CC=C1)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3670,"CCOCC.COC1=CC(C(C(O)C2=CC=C(OC)C(O[Si](C)(C)C(C)(C)C)=C2O[Si](C)(C)C(C)(C)C)[OH:1])=CC(OC)=C1OC.F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,4973,"C[C:1](C)=[O+:2][B-](F)(F)F.C[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7888,"CC(=O)[O:1][H:2].CO[P:3](N=[N+]=[N-])(OC)=[O:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,1766,"C=CC(=O)[O:1][C:2](C)(OCC)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7548,"COC(=O)[C:1](C)(C(=O)OC)[H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,1873,"CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.N#CC1=CC(OC2=C(F)C(CO)=CC=C2Br)=CC(C2OCC[O:3]2)=C1.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7352,"C[S:1]C[CH2:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9842,"CCO[C:1]([C:2](C)(C(=O)CC)[H:3])=[O:4].CC[O-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,4360,"CC1=CO[C:1](Br)([H:2])[CH+:3]1.[Br-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,5154,"C[C:1]1=[C:2]2C=CC=C[C:3]2=[CH:4]C=C1.O=[N+:5]=[O:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,7804,"CC(C)(C1=CC=CC=C1)[O+:1]=[C:2](C)[O:3][H:4].CC(O)=[O:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,3676,"CCC1CCC(C)([OH+:1][H:2])C1Br.[OH2:3]|(3, 2);((2, 1), 1)"
